US05244889
Dimethyl (2R)-2-amino-12-t-butoxycarbonyl-4-thia-1,13-tridecanedicarboxylate (3.39 g, 8.36 mmol) is dissolved in methylene chloride (50 ml) and hydrogen chloride gas is bubbled through the solution for 5 minutes. The reaction mixture is stirred for 2 hours at room temperature. The solvent is evaporated to give dimethyl (2R)-2-amino-12-carboxy-4-thia-1,13-tridecanedicarboxylate hydrochloride as an oil.

reactant | Dimethyl (2R)-2-amino-12-t-butoxycarbonyl-4-thia-1,13-tridecanedicarboxylate | 8.36 mmol, 3.39 g | N[C@H](CC(=O)OC)CSCCCCCCCC(CC(=O)OC)C(=O)OC(C)(C)C | C21H39NO6S
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | dimethyl (2R)-2-amino-12-carboxy-4-thia-1,13-tridecanedicarboxylate hydrochloride | Cl.N[C@H](CC(=O)OC)CSCCCCCCCC(CC(=O)OC)C(=O)O | InChI=1S/C17H31NO6S.ClH/c1-23-15(19)10-13(17(21)22)8-6-4-3-5-7-9-25-12-14(18)11-16(20)24-2;/h13-14H,3-12,18H2,1-2H3,(H,21,22);1H/t13?,14-;/m1./s1
